US07923456B2
Step 1: (R)—N-((2,2-Dimethyl-1,3-dioxolan-4-yl)methoxy)-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid (100.0 mg, 0.25 mmol) in anhydrous DMF (2.5 mL) was added, in order, (R)—O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine (40.7 mg, 0.28 mmol, 1.1 eq.), HOBt (37.3 mg, 0.27 mmol, 1.1 eq.), EDCI (53.0 mg, 0.27 mmol, 1.1 eq.), and N-methylmorpholine (0.1 mL, 0.91 mmol, 3.6 mmol). The reaction mixture was stirred at room temperature under N2 for 3 days. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with a saturated solution of sodium bicarbonate, water and brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 80% to 100%, ethyl acetate in hexane, followed by gradient 0 to 20% methanol in ethyl acetate) to give a yellow solid (72.6 mg, 54.8%). LCMS (method D1): RT=0.97 min, [M+H]+=528.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyrazine-6-carboxylic acid | 0.25 mmol, 100.0 mg | FC1=C(C=CC(=C1)I)NC1=C(N=CC=2N1C=NC2)C(=O)O | C13H8FIN4O2
reactant | (R)—O-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)hydroxylamine | 0.28 mmol, 40.7 mg, 1.1 eq. | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | HOBt | 0.27 mmol, 37.3 mg, 1.1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.27 mmol, 53.0 mg, 1.1 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-methylmorpholine | 0.91 mmol, 0.1 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)—N-((2,2-Dimethyl-1,3-dioxolan-4-yl)methoxy)-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide | 72.6 mg, 54.8% | CC1(OC[C@@H](O1)CONC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)C | C19H19FIN5O4
